US06559256B2
Preparation of 4-(acetyloxy-methyl)benzoic acid (3):
Triethylamine (15.4 ml, 110.4 mmol) was added to a solution of aldehyde (2) (12.57 g, 92.4 mmol) in THF (50 ml) and cooled to 0° C. Acetyl chloride (7.91 g, 110.4 mmol) was then gradually added over 25 minutes, and the mixture was then left to stir for two hours at room temperature. After one hour, ethyl acetate (200 ml) was added and the solution washed with sodium carbonate (100 ml), HCl (17%, 50 ml) and water (100 ml) respectively. The organic layer was then dried over sodium sulfate and the solvent removed under reduced pressure to give an oil which crystallised when cooled. Re-crystallisation in methanol-hexane gave light yellow crystals.

reactant | Triethylamine | 110.4 mmol, 15.4 ml | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 110.4 mmol, 7.91 g | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(acetyloxy-methyl)benzoic acid | C(C)(=O)OCC1=CC=C(C(=O)O)C=C1 | C10H10O4
